US09212190B2
Synthesis of 2-[(3R)-12-[(4-amino-4-methylcyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]acetamide (I-161)
A solution of tert-butyl N-(4-[[(3R)-3-(carbamoylmethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2 (6),9,11-tetraen-12-yl]oxy]-1-methylcyclohexyl)carbamate (100 mg, 0.22 mmol, 1.00 equiv) in dichloromethane (5.0 mL) was added hydrochloric acid (6 N, 0.3 mL) at 0° C. The resulting solution was stirred for 2 h at room temperature and concentrated under vacuum. The crude product (90 mg) was purified by preparative HPLC under the following conditions (Waters): column: XBridge Prep C18 OBD column: 5 um, 19*150 mm, mobile phase: water with 0.05% NH4HCO3 and CH3CN (5% CH3CN up to 16% in 2 min, hold 16% in 11 min, up to 95% in 2 min, down to 5% in 2 min); flow rate: 20 mL/min; UV detection at 254 & 220 nm. This resulted in 28.4 mg (36%) of 2-[(3R)-12-[(4-amino-4-methylcyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]acetamide as a white solid. MS: m/z 361 (M+H)+.

reactant | tert-butyl N-(4-[[(3R)-3-(carbamoylmethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2 (6),9,11-tetraen-12-yl]oxy]-1-methylcyclohexyl)carbamate | 0.22 mmol, 100 mg, 1.00 equiv | C(N)(=O)C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)(C)NC(OC(C)(C)C)=O | C23H32N4O4S
reactant | hydrochloric acid | 6 N, 0.3 mL | Cl | ClH
solvent | dichloromethane | 5.0 mL | ClCCl | CH2Cl2
product | 2-[(3R)-12-[(4-amino-4-methylcyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]acetamide | NC1(CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)CC(=O)N)C | C18H24N4O2S
